US06432993B1
(10-2b) 5-{4-(1-Methyl-6-[2-(morpholin-4-yl)phenoxy]-1H-benzimidazol-2-ylmethoxy)benzyl}thiazolidine-2,4-dione dihydrochloride
0.64 g of 5-{4-(1-methyl-6-[2-(morpholin-4-yl)phenoxy]-1H-benzimidazol-2-ylmethoxy)benzyl}thiazolidine-2,4-dione were dissolved in a mixture of 30 ml of concentrated hydrochloric acid and 30 ml of 1,4-dioxane. The resulting solution was stirred at room temperature for 90 minutes. The reaction mixture was evaporated to dryness, followed by the addition of ether. The insoluble product was collected by filtration and washed with ether, whereby 0.71 g of the title compound were obtained.

reactant | 5-{4-(1-methyl-6-[2-(morpholin-4-yl)phenoxy]-1H-benzimidazol-2-ylmethoxy)benzyl}thiazolidine-2,4-dione | 0.64 g | CN1C(=NC2=C1C=C(C=C2)OC2=C(C=CC=C2)N2CCOCC2)COC2=CC=C(CC1C(NC(S1)=O)=O)C=C2 | C29H28N4O5S
reactant | hydrochloric acid | 30 ml | Cl | ClH
solvent | 1,4-dioxane | 30 ml | O1CCOCC1 | C4H8O2
product | 5-{4-(1-Methyl-6-[2-(morpholin-4-yl)phenoxy]-1H-benzimidazol-2-ylmethoxy)benzyl}thiazolidine-2,4-dione dihydrochloride | 0.71 g | Cl.Cl.CN1C(=NC2=C1C=C(C=C2)OC2=C(C=CC=C2)N2CCOCC2)COC2=CC=C(CC1C(NC(S1)=O)=O)C=C2 | InChI=1S/C29H28N4O5S.2ClH/c1-32-24-17-21(38-25-5-3-2-4-23(25)33-12-14-36-15-13-33)10-11-22(24)30-27(32)18-37-20-8-6-19(7-9-20)16-26-28(34)31-29(35)39-26;;/h2-11,17,26H,12-16,18H2,1H3,(H,31,34,35);2*1H
